data/mechanisms/records/IMS8-EQ8.107.json
{"mechanism_id": "IMS8-EQ8.107", "species": [{"species_id": "phenylethyl_bromide_molecular_ion", "mapped_smiles": "[C:1]1([CH2:7][CH2:8][Br:9])[CH:2]=[CH:3][CH+:4][CH:5]=[CH:6]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ethylenebenzenium_phenonium_ion", "mapped_smiles": "[C:1]12([CH2:7][CH2:8]1)[CH:2]=[CH:3][CH+:4][CH:5]=[CH:6]2", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "bromine_radical", "mapped_smiles": "[Br:9]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["phenylethyl_bromide_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["ethylenebenzenium_phenonium_ion", "bromine_radical"]}], "steps": [{"step_id": "step_rd_phenonium", "from_state": "state_precursor", "to_state": "state_products", "step_class": "radical_site_displacement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [8, 9]}, "target": {"type": "bond", "atom_maps": [1, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [8, 9]}, "target": {"type": "atom", "atom_maps": [9]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_rd_8_107", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rd_phenonium", "support_type": "textbook_proposed", "locator": {"page": 215, "equation": "8.107", "figure": null, "panel": "single arrow labelled 'rd'", "section": "8.11 Other rearrangements"}, "confidence": 0.85, "curator_note": "TEXT ON THE PAGE: 'Also in close parallel to solution chemistry, the displacement loss of Br. from 2-phenylethylbromide forms the ethylenebenzenium (\"phenonium\") ion (Equation 8.107; Koppel and McLafferty 1976).' The scheme is a single reaction arrow labelled 'rd' (radical-site displacement); the expelled Br. is named only in the prose, not printed over the arrow. ARC COUNT (convention D): Book draws 0 arc(s). There is NO curved arrow, fishhook or barb anywhere in Equation 8.107 - the figure shows only the net transformation, with stereochemistry (bold wedges / hashed lines on the four methylene hydrogens) used to depict the inversion of configuration at the attacked carbon that the preceding sentence discusses ('involves inversion of configuration at the carbon attacked'). All three encoded moves <1,2,3> are therefore IMPLICIT, supplied by the curator for electron balance and not drawn on the page: <1> the ring radical site's odd electron into the forming C1-C8 bond, <2> one electron of the breaking C8-Br sigma bond into that same forming bond, <3> the second electron of the C8-Br bond onto bromine, which is what actually makes the Br. the text names. LOCALIZATION (conventions B and C): the book prints '+.' floating INSIDE the benzene ring of the precursor, i.e. a fully delocalized aryl radical cation, and draws the product ring with a dashed delocalization loop and a bare '+'. A delocalized radical cation has no single atom carrying both the charge and the odd electron, so a Kekule/localized form had to be chosen: this record puts the ODD ELECTRON on the ipso carbon (map 1, the one bonded to the side chain - the atom that has to attack C8, so that move <1> has a real origin) and the POSITIVE CHARGE on the para carbon (map 4), with ring double bonds C2=C3 and C5=C6. The identical ring bond pattern is kept in the product, where map 1 becomes the sp3 spiro carbon of the cyclopropane and maps 2-6 are the cyclohexadienyl cation the dashed loop stands for; the ortho-cation resonance form the dashed loop also covers is equivalent and not encoded. STEREOCHEMISTRY: the drawn inversion at C8 is NOT encoded (the mapped SMILES carry no stereo descriptors); this is a deliberate omission, the record captures connectivity and electron flow only. INSTANTIATION (convention F): the figure writes the leaving group as 'X'; the prose names the compound as 2-phenylethylbromide, so X = Br here (79Br for the monoisotopic masses). MS CONTEXT (convention G): page 215 names no ionization or activation method and no electron energy; the species that undergoes the drawn reaction is the whole-molecule odd-electron radical cation drawn with '+.', so ms_context uses the convention-G molecular-ion default (EI, adduct [M]+., 70 eV). The 70 eV figure is the book's standing convention, NOT a number printed on this page."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 183.9877, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_105", "species_id": "ethylenebenzenium_phenonium_ion", "step_id": "step_rd_phenonium", "observed_mz": 105.0693, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.5}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
